US08609688B2
Synthesis of N,N-dimethyl-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine-4-carboxamide
To a solution of 1-(3-bromophenyl)-N,N-dimethylpiperidine-4-carboxamide (2.2 g, 7.3 mmol) were added bis(pinacolato)diboron (2.8 g, 11 mmol), PdCl2(dppf) (237 mg, 0.29 mmol), and KOAc (2.2 g, 22 mmol). The mixture was heated at 80° C. for 6 h and diluted with water and ethyl acetate then separated. The organic phase was dried and evaporated. The residue was purified with silica gel column chromatography (hexane/ethyl acetate 10:0 to 0:10) to give the titled compound (1.94 g, 75%).

reactant | 1-(3-bromophenyl)-N,N-dimethylpiperidine-4-carboxamide | 7.3 mmol, 2.2 g | BrC=1C=C(C=CC1)N1CCC(CC1)C(=O)N(C)C | C14H19BrN2O
reactant | bis(pinacolato)diboron | 11 mmol, 2.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 22 mmol, 2.2 g | CC(=O)[O-].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 0.29 mmol, 237 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N,N-dimethyl-1-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperidine-4-carboxamide | 1.94 g, 75% | CN(C(=O)C1CCN(CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C20H31BN2O3
